US05998436
Synthesis of 5-amino-7-(3-aminoazetidin-1-yl)-1-(6-amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 210 mg of N,N-dimethylformamide were added 50 mg of 5-amino-1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 40 mg of 3-aminoazetidine dihydrochloride, and 150 mg of N-methylpyrrolidine, and the mixture was stirred at 90° C. for 1 hour, and concentrated under reduced pressure. The procedure of adding 2 ml of diisopropylether to the residue, stirring and decanting was repeated twice. 2 ml of ethanol and 40 mg of N-methylpyrrolidine were added to the residue, and the mixture was allowed to stand overnight, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 26 mg of the title compound as a pale yellow powder.

reactant | 5-amino-1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 50 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C15H7F5N4O3
reactant | 3-aminoazetidine dihydrochloride | 40 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 150 mg | CN1CCCC1 | C5H11N
solvent | N,N-dimethylformamide | 210 mg | CN(C=O)C | C3H7NO
product | 5-amino-7-(3-aminoazetidin-1-yl)-1-(6-amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 26 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(C1)N)F)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C18H14F4N6O3
